US09126931B2
2-(2-Bromo-5-methoxy-phenyl)-2-ethyl-butyric acid
(2-Bromo-5-methoxy-phenyl)-acetic acid methyl ester (3.51 g, 13.5 mmol) was dissolved in DMF (4.5 ml), and added with NaH (2.1 g, 67.7 mmol). Subsequently, 15-crown-5 (1.38 ml, 6.8 mmol) and EtI (5.5 ml, 67.7 mmol) cooled to 0° C. were added to the mixture. The mixture was diluted with ethyl acetate and washed with water and saturated brine. The residues obtained after concentration under reduced pressure were purified by silica gel column (hexane-ethyl acetate). Then, the resultant was dissolved in ethanol (80 ml) and water (80 ml), added with KOH (91 g), and stirred at 140° C. The reaction solution was extracted with ethyl acetate, and washed with water and saturated brine. After concentration under reduced pressure, the target compound was obtained (10.62 g, 78%).

reactant | (2-Bromo-5-methoxy-phenyl)-acetic acid methyl ester | 13.5 mmol, 3.51 g | COC(CC1=C(C=CC(=C1)OC)Br)=O | C10H11BrO3
reactant | NaH | 67.7 mmol, 2.1 g | [H-].[Na+]
reactant | 15-crown-5 | 6.8 mmol, 1.38 ml | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | EtI | 67.7 mmol, 5.5 ml | C(C)I | C2H5I
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Bromo-5-methoxy-phenyl)-2-ethyl-butyric acid | BrC1=C(C=C(C=C1)OC)C(C(=O)O)(CC)CC | C13H17BrO3
